US05342846
5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
3-(1,2,3-triazol-1-yl)pyrrolidinehydrochloride (147 mg, 0.84 mmol) and DBU (128 mg, 0.84 mmol) were added to a suspension of 5-Amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (100 mg, 0.33 mmol) in pyridine (5 ml). The reaction mixture was heated at 120° C. for 30 hrs, concentrated and the residue was triturated with water. The separated solid was filtered, washed with water and recrystallized from chloroform-hexane. Yield 40 mg; m.p. 208° C.; 1H NMR (TFA) δ: 9.39 (s, 1H), 8.70 (s, 1H), 8.57 (s, 1H), 5.88 (s, 1H), 4.43-4.73 (m, 4H), 4.10 (m, 1H), 3.79 (s, 3H), 2.92 (m, 2H), 1.12-1.58 (m, 4H).

reactant | 3-(1,2,3-triazol-1-yl)pyrrolidinehydrochloride | 0.84 mmol, 147 mg | Cl.N1(N=NC=C1)C1CNCC1
reactant | DBU | 0.84 mmol, 128 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-Amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.33 mmol, 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-7-[3-(1,2,3-triazol-1-yl)pyrrolidin-1-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)N1N=NC=C1)OC)C1CC1)C(=O)O)=O | C20H21FN6O4
